US04489075
A mixture of 3-methyl-6H-1,2,6-thiadiazine-1,1-dioxide (0.584 g) and 1-(6,7-dimethoxyquinazolin-4-yl)-4-iodomethylpiperidine (0.826 g) were heated under reflux with tetrabutylammonium fluoride (4 ml; 1.0M in tetrahydrofuran [T.H.F.]) for 24 hours. The solvent was then removed in vacuo and the residue was chromatographed on silica (Merck 60.9385) eluting with chloroform to give a foam. Crystallisation from ethyl acetate gave 1-(6,7-dimethoxyquinazolin-4-yl)-4-(1,1-dioxo-5-methyl-1,2,6-thiadiazin-2-yl)methylpiperidine as white needles, m.p. 203°-207°, (0.35 g).

reactant | 3-methyl-6H-1,2,6-thiadiazine-1,1-dioxide | 0.584 g | CC1=NS(NC=C1)(=O)=O | C4H6N2O2S
reactant | 1-(6,7-dimethoxyquinazolin-4-yl)-4-iodomethylpiperidine | 0.826 g | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC(CC1)CI | C16H20IN3O2
reactant | tetrabutylammonium fluoride | 1.0M, 4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(6,7-dimethoxyquinazolin-4-yl)-4-(1,1-dioxo-5-methyl-1,2,6-thiadiazin-2-yl)methylpiperidine | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC(CC1)CN1S(N=C(C=C1)C)(=O)=O | C20H25N5O4S
